US07871998B2
Sodium (2R)-2-amino-4-cyclohexylbutanoate
Ethyl (2R)-2-amino-4-cyclohexylbutanoate hydrochloride (4.00 g, 18.75 mmol) was dissolved in MeOH/Water (10/5 ml). Sodium hydroxide (1.50 g, 37.50 mmol) was added. The reaction mixture was stirred for 1 h and concentrated to give the title compound as a colourless solid (containing 100 mol % of sodium chloride). 1H NMR [(CD3)2SO), 400 MHz] δ0.83-0.97 (m, 2H), 1.10-1.33 (m, 6H), 1.48-1.78 (m, 7H), 3.15 (dd, 1H).

reactant | Ethyl (2R)-2-amino-4-cyclohexylbutanoate hydrochloride | 18.75 mmol, 4.00 g | Cl.N[C@@H](C(=O)OCC)CCC1CCCCC1
reactant | Sodium hydroxide | 37.50 mmol, 1.50 g | [OH-].[Na+]
solvent | MeOH Water | 5 ml | CO.O
product | Sodium (2R)-2-amino-4-cyclohexylbutanoate | N[C@@H](C(=O)[O-])CCC1CCCCC1.[Na+] | InChI=1S/C10H19NO2.Na/c11-9(10(12)13)7-6-8-4-2-1-3-5-8;/h8-9H,1-7,11H2,(H,12,13);/q;+1/p-1/t9-;/m1./s1
